Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam
 
Attending: ___.
 
Chief Complaint:
shaking chills and low-grade temp

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patent is a ___ female with PMH of AML ___ years s/p MRD 
transplant with complications of chronic, extensive, mild GVHD 
involving the lungs and skin on chronic prednisone who presents 
with shaking chills for one day. Patient was last in her USOH 
until this morning when she developed shaking chills. Recently 
she has been in and out of healthcare facilities vising her 
husband who has been in a rehab and had ER visits for an 
orthopeduic complaint. She identifies no infectious sick 
contacts in her personal life. The chills came on suddenly this 
morning and she recorded low-grade temperatures to the 99, low 
100 range at home. She called the ___ fellow who told her to 
monitor at home and present to the ED if the temperature became 
any higher. It reached a max of 100.9 at home and she presented 
to the ED. She also has complaints of sinus congestion and 
cough. She has no N/V, no constipation but has loose stool, not 
diarrhea. She has no pain, and no dysuria or urgency to 
urination. There are no rashes, no mouth sores, no swollen 
glands. On presentation, she felt very chilled in the ED room 
but is now feeling too warm.

In the emergency department, initial vitals: 99.6 125 122/63 22 
95%. She received 1gm of Vanco. CXR was concerning for PNA. 

Review of systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied cough, shortness of 
breath. Denied chest pain or tightness, palpitations. Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- repeat bone marrow biopsy showed acute erythroleukemia  
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (___) ___  
- complicated by GVHD of the skin and lungs, on Prednisone 7.5mg 
currently  
.  
OTHER MEDICAL HISTORY:  
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (___-LAD) 
___  
- Afib  
- Diverticulitis, hx of perforated diverticulum ___ ___ 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___  
- CHF with EF 40-45%  
Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus  
- Diverticulosis  
- Occasional bronchospasm  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  
- basal cell carcinoma-s/p electrodessication and curettage on  
___  
- tonsillectomy at the age of ___;  
- D&C for question of some polyps back in ___  

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Physical Exam on admission:
VS: T98.2 BP 110/56 HR 100 RR 16 95% RA  
GENERAL: alert and oriented, NAD, in some obvious fatigue, 
facial flushing  
HEENT: No scleral icterus. PERRLA/EOMI. MM slightly dry. OP 
clear with mild pharyngeal erythema but no exudates or tonsilar 
enlargement. Neck Supple, No LAD.  
CARDIAC: RR. Normal S1, S2. No m/r/g.  
LUNGS: CTA B, good air movement biaterally.  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No c/c/e, 2+ dorsalis pedis/ posterior tibial 
pulses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Gait assessment deferred 

Physical Exam on discharge:
GENERAL: alert and oriented, NAD 
HEENT: No scleral icterus. 
PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD.  
CARDIAC: RR. Normal S1, S2. No m/r/g.  
LUNGS: CTA B, good air movement biaterally.  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No c/c/e, 2+ dorsalis pedis/ posterior tibial 
pulses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Gait assessment deferred 
 

 
Pertinent Results:
Labs on admission:

___ 12:50PM BLOOD WBC-14.2*# RBC-4.58 Hgb-15.0 Hct-47.2 
MCV-103* MCH-32.7* MCHC-31.8 RDW-14.5 Plt ___
___ 12:50PM BLOOD Neuts-82.0* Lymphs-10.2* Monos-6.3 
Eos-1.0 Baso-0.4
___ 07:25AM BLOOD ___ PTT-24.4* ___
___ 12:50PM BLOOD Glucose-125* UreaN-19 Creat-1.2* Na-138 
K-3.9 Cl-102 HCO3-26 AnGap-14
___ 07:25AM BLOOD ALT-17 AST-13 LD(LDH)-259* AlkPhos-46 
TotBili-0.4
___ 06:37AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.7
___ 01:01PM BLOOD Lactate-2.5*

Microbiology:
Blood cx ___: NGTD
___ 8:17 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary.

Imaging:
CXR ___:
FINDINGS:  Two views of the chest were obtained.  Irregular new 
parenchymal opacities are seen in the right upper lobe, 
concerning for new infection.  Left base is likely clear without 
correlate findings on lateral view. There is no pleural effusion 
or pneumothorax.  The heart is normal in size with normal 
cardiomediastinal contours. 
  
IMPRESSION:  Right upper lobe pneumonia 

Labs on discharge:

___ 05:42AM BLOOD WBC-5.7 RBC-3.89* Hgb-12.8 Hct-39.2 
MCV-101* MCH-32.8* MCHC-32.5 RDW-14.8 Plt ___
___ 05:42AM BLOOD Neuts-65.4 ___ Monos-8.3 Eos-7.0* 
Baso-0.1
___ 05:42AM BLOOD ___ PTT-24.0* ___
___ 05:42AM BLOOD ___ 05:42AM BLOOD Glucose-116* UreaN-14 Creat-1.1 Na-141 
K-4.3 Cl-108 HCO3-27 AnGap-10
___ 05:42AM BLOOD ALT-35 AST-30 LD(LDH)-283* AlkPhos-44 
TotBili-0.4
___ 05:42AM BLOOD Calcium-8.4 Phos-2.7 Mg-2.___ yo female with h/o AML s/p allogeneic stem cell 
transplant ___ years ago c/b chronic, extensive, mild GVHD 
involving the lungs and skin on chronic prednisone who presented 
with shaking chills and low grade temperature x 1 day and CXR 
findings consistent with PNA.
  
# RUL Pneumonia:  Pt presented with one day of shaking chills 
and low grade temp (100.9).  CXR showed a RUL infiltrate.  She 
was started on broad-spectrum antibioitics (Vanc/Aztreonam and 
Azithromycin).  Vanc was discontinued ___ red-man's syndrome 
despite running it over three hours.  In its place, linezolid 
was started on ___.  She then developed a rash and pruitis 
to aztreonam.  We therefore d/c'd linezolid, azithromycin and 
aztreonam.  She was then given moxifloxacin 400 mg daily given 
known allergies to levofloxacin and ciprofloxacin.  She had 
minor erythema/pruitis to the moxifloxacin, but was able to 
tolerate the reaction with the addition of benadryl.  She was 
therefore d/c'd with three additional days of moxifloxacin for a 
total antibiotic course of seven days.
  
# Hx of AML s/p BMT c/b GVHD. Not currently active.  We 
continued prednisone at 20 mg for GVHD, Singulair, Advair, 
Albuterol PRN and Acyclovir prophylaxis.  
  
# CAD s/p STEMI with decreased EF: no current issues.  continued 
aspirin 162mg, metoprolol, lisinopril and atorvastatin.  
  
# Hx of DM: held metformin while in-house.  She was placed on a 
humalog sliding scale.

Transitional Issues:

- Pt will follow up with Dr. ___ on ___ 
 
Medications on Admission:
ACYCLOVIR - 400 mg Tablet - 1 Tablet(s) by mouth twice a day
ALBUTEROL SULFATE [PROVENTIL HFA] - 90 mcg HFA Aerosol Inhaler -
___ puffs every four (4) hours as needed for shortness of breath
or wheezing
ATORVASTATIN [LIPITOR] - 40 mg Tablet - 2 (Two) Tablet(s) by
mouth DAILY (Daily) pt has difficulty swallowing
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 250 mcg-50 mcg/Dose 
Disk
with Device - 1 puff(s) IH once a day
GLIPIZIDE - (Prescribed by Other Provider) - 2.5 mg Tablet
Extended Rel 24 hr - 1 Tablet(s) by mouth daily
LISINOPRIL - 2.5 mg Tablet - 1 Tablet(s) by mouth once a day
LORAZEPAM [ATIVAN] - 0.5 mg Tablet - ___ Tablet(s) by mouth q4-6
hours as needed for nausea, anxiety, insomnia
METFORMIN - (Prescribed by Other Provider) - 500 mg Tablet - 1
Tablet(s) by mouth twice a day
METOPROLOL SUCCINATE - 25 mg Tablet Extended Release 24 hr - 1
Tablet(s) by mouth once a day
MONTELUKAST [SINGULAIR] - 10 mg Tablet - 1 Tablet(s) by mouth
daily
PREDNISONE - 10 mg Tablet - 1 Tablet(s) by mouth daily

Medications - OTC
ASPIRIN - (Dose adjustment - no new Rx) - 81 mg Tablet, Delayed
Release (E.C.) - 2 Tablet(s) by mouth DAILY (Daily)
CALCIUM CARBONATE - (Prescribed by Other Provider; Dose
adjustment - no new Rx) - 600 mg (1,500 mg) Tablet - 1 Tablet(s)
by mouth daily
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - (Prescribed by Other
Provider) - 1,000 unit Capsule - 1 Capsule(s) by mouth once a 
day
CYANOCOBALAMIN (VITAMIN B-12) - (Dose adjustment - no new Rx) -
500 mcg Tablet - 1 Tablet(s) by mouth daily
DOCUSATE SODIUM - (Dose adjustment - no new Rx) - 100 mg Capsule
- 1 Capsule(s) by mouth daily
FAMOTIDINE [PEPCID AC] - (Dose adjustment - no new Rx) - 20 mg
Tablet - 1 Tablet(s) by mouth twice a day as needed for 
dyspepsia
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - (OTC) - 20 mg Tablet,
Delayed Release (E.C.) - 1 Tablet(s) by mouth twice a day
POTASSIUM & SODIUM PHOSPHATES [PHOS-NAK] - 280 mg-160 mg-250 mg
Powder in Packet - 1 Powder(s) by mouth bid x 5 days

 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
2. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.  
3. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation once a day.  
5. glipizide 2.5 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.  
6. lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
7. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for nausea.  
8. metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
9. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
10. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. prednisone 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. aspirin 81 mg Tablet, Chewable Sig: Two (2) Tablet, Chewable 
PO DAILY (Daily).  
13. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO DAILY (Daily).  
14. cholecalciferol (vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO once 
a day.  
17. famotidine 20 mg Tablet Sig: One (1) Tablet PO once a day.  
18. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
19. camphor-menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
TID (3 times a day) as needed for puritis for 5 days.
Disp:*qs * Refills:*0*
20. moxifloxacin 400 mg Tablet Sig: One (1) Tablet PO daily () 
for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
21. diphenhydramine HCl 50 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for itching for 5 days.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pneumonia

Secondary:
Acute myelogenous leukemia status post bone marrow transplant
Graft versus host disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
     ___ was sincere pleasure taking care of you during your 
hospitalization at ___.  You 
were admitted with fever and chills.  We found that you had a 
pneumonia.  You did not have any further fever or chills after 
we started antibiotics.  You will need to continue the 
antibiotics for an additional three days.
     You are now safe for discharge home.

 
Followup Instructions:
___